US05045552
A mixture comprising 6.5 g of 4-(2-benzyloxyethoxy-2,3-dimethylpyridine N-oxide and 56 ml of acetic anhydride was stirred at 80° to 90° C. for one hour and distilled to remove the acetic anhydride. The obtained residue was made weakly basic with an aqueous solution of sodium carbonate and extracted with methyl ethyl ketone. The extract was dried over magnesium sulfate and distilled to remove the methyl ethyl ketone. Thus, 7.0 g of 2-acetoxymethyl-4-(2-benzyloxyethoxy)-3-methylpyridine was obtained. This intermediate was dissolved in 90 ml of ethanol, followed by the addition of 1.43 g of sodium hydroxide. The obtained mixture was stirred at 40° C. for one hour, followed by the addition of water. The mixture was extracted with methyl ethyl ketone. The obtained extract was dried over magnesium sulfate to obtain 5.4 g of 4-(2-benzyloxyethoxy)-2-hydroxymethyl-3-methylpyridine.

reactant | 2-benzyloxyethoxy-2,3-dimethylpyridine N-oxide | C(C1=CC=CC=C1)OCCOC1=C(C(=[N+](C=C1)[O-])C)C | C16H19NO3
reactant | acetic anhydride | 56 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-4-(2-benzyloxyethoxy)-3-methylpyridine | 7.0 g | C(C)(=O)OCC1=NC=CC(=C1C)OCCOCC1=CC=CC=C1 | C18H21NO4
